US05070087
4-[2,2-Bis(4-fluorophenyl)ethyl]pyridine hydrochloride [1:1]
A mixture of 15.05 g (0.048 mole) of α,α-bis(4-fluorophenyl)-4-pyridineethanol, 3.2 g (0.1 mole) of phosphorus and 50 ml of 56.9% hydrogen iodide in 150 ml of glacial acetic acid was heated at reflux for 11 hr. The solvent was removed in vacuo, and the residue was partitioned between methylene chloride and dilute sodium hydroxide. The methylene chloride solution was dried over magnesium sulfate, and the solvent was removed in vacuo to give an oil. This was dissolved in a mixture of methanol and ether, and an excess of ethereal hydrogen chloride was added. The solvent was removed in vacuo, and the residue was recrystallized from a mixture of acetonitrile and ether to give 13.89 g (87% yield) of title compound as a white, crystalline solid, mp 197°-199° C.

reactant | α,α-bis(4-fluorophenyl)-4-pyridineethanol | 0.048 mole, 15.05 g | FC1=CC=C(C=C1)C(CC1=CC=NC=C1)(O)C1=CC=C(C=C1)F | C19H15F2NO
reactant | phosphorus | 0.1 mole, 3.2 g | [P] | P
reactant | hydrogen iodide | 50 ml | I | HI
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
solvent | ether | CCOCC | C4H10O
product | 4-[2,2-Bis(4-fluorophenyl)ethyl]pyridine hydrochloride | 13.89 g, 87% yield | Cl.FC1=CC=C(C=C1)C(CC1=CC=NC=C1)C1=CC=C(C=C1)F | InChI=1S/C19H15F2N.ClH/c20-17-5-1-15(2-6-17)19(13-14-9-11-22-12-10-14)16-3-7-18(21)8-4-16;/h1-12,19H,13H2;1H
